US04990515
A suspension of 6 g of 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine and 5.16 g of potassium carbonate in 120 cm3 of dimethylformamide is heated at a temperature close to 110° C. for 1 hour. After cooling to about 15° C., 5.44 cm3 of chloromethyl ethyl ether are added and the mixture is stirred for 5 hours at between 15° and 20° C. The reaction mixture is concentrated to dryness under reduced pressure (20 kPa) at about 60° C. The residue is taken up in 3 times 150 cm3 of trichloromethane. The combined organic extracts are filtered in order to remove the insoluble matter. The filtrate is dried over magnesium sulphate and concentrated under reduced pressure (20 kPa) at about 40° C. The residue is recrystallized from 55 cm3 of dimethylformamide. 5.6 g of 8-chloro-3 -ethoxycarbonyl-1-ethoxymethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a beige solid melting at 261° C.

reactant | 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 6 g | ClC=1C(=CC=2C(=NC=3NC=C(C(C3C2)=O)C(=O)OCC)C1)F | C15H10ClFN2O3
reactant | potassium carbonate | 5.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl ethyl ether | 5.44 cm3 | C(C)OCCl | C3H7ClO
solvent | dimethylformamide | 120 cm3 | CN(C=O)C | C3H7NO
product | 8-chloro-3 -ethoxycarbonyl-1-ethoxymethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 5.6 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)COCC)C1)F | C18H16ClFN2O4
